US04195096
PREPARATION OF N-DECYL-4-(2-HYDROXYETHOXY) BUTYRAMIDE
In a steel autoclave, 243 grams (1 mole) of N-decyl-4-hydroxybutyramide at a temperature of 130° C. was admixed with 44 grams (1 mole) of oxirane which was added to the autoclave as a compressed gas. The reaction mixture was stirred and autogenous pressure caused a drop in pressure during the reaction. After the reaction was complete in a period of about 2 hours, 281 grams of product were obtained. The product was then cooled to room temperature whereupon a light solid having a melting point of 48° C. was obtained. IR=6.11 mu.

reactant | N-decyl-4-hydroxybutyramide | 1 mole, 243 grams | C(CCCCCCCCC)NC(CCCO)=O | C14H29NO2
reactant | oxirane | 1 mole, 44 grams | O1CC1 | C2H4O
product | N-DECYL-4-(2-HYDROXYETHOXY) BUTYRAMIDE | 281 grams | C(CCCCCCCCC)NC(CCCOCCO)=O | C16H33NO3
